US04828754
The reaction was performed as in Example 18 except using 3'-chloro-4'-octyloxybiphenyl-4-carboxylic acid instead of 3'-nitro-4'-tetradecyloxybiphenyl-4-carboxylic acid and (S)-2-methylbutyl 3-fluoro-4-hydroxybenzoate instead of (S)-2-methylbutyl 4-hydroxybenzoate. There was obtained 2-fluoro-4--(S)-2-methylbutyloxycarbonyl]phenyl 3'-chloro-4'-octyloxybiphenyl-4-carboxylate.

reactant | 3'-chloro-4'-octyloxybiphenyl-4-carboxylic acid | ClC=1C=C(C=CC1OCCCCCCCC)C1=CC=C(C=C1)C(=O)O | C21H25ClO3
reactant | (S)-2-methylbutyl 3-fluoro-4-hydroxybenzoate | FC=1C=C(C(=O)OC[C@H](CC)C)C=CC1O | C12H15FO3
product | phenyl 3'-chloro-4'-octyloxybiphenyl-4-carboxylate | ClC=1C=C(C=CC1OCCCCCCCC)C1=CC=C(C=C1)C(=O)OC1=CC=CC=C1 | C27H29ClO3
